US05318947
42.5 g of 2-chloro-4-methylsulfonylbenzoic acid were boiled in 160 ml of dioxane with 5 drops of dimethylformamide and 25.1 ml of thionyl chloride until the evolution of gas subsided. The solvent was stripped off with the exclusion of moisture on a rotary evaporator. To the oily residue there were added at 0° C. 19.7 g of 1,3-cyclohexanedione in 250 ml of acetonitrile, and 63.1 ml of triethylamine were then added dropwise at this temperature. Stirring was continued for 15 minutes, 15.3 ml of acetone cyanohydrin were added, and the mixture was allowed to stand overnight. The reaction mixture was concentrated under reduced pressure on a rotary evaporator, the residue was taken up in ethyl acetate/water, and the organic phase was washed with 2N hydrochloric acid. The product was extracted from the organic phase using 5% K2CO3 solution, and precipitated at a pH of 2-3 using concentrated hydrochloric acid, with cooling. After filtration with suction and drying, 48.4 g of 2-[2-chloro-4-(methylsulfonyl)benzoyl]-1,3-cyclohexanedione of melting point 141°-142° C. were obtained.

reactant | 2-chloro-4-methylsulfonylbenzoic acid | 42.5 g | ClC1=C(C(=O)O)C=CC(=C1)S(=O)(=O)C | C8H7ClO4S
reactant | thionyl chloride | 25.1 ml | S(=O)(Cl)Cl | Cl2OS
reactant | dioxane | 160 ml | O1CCOCC1 | C4H8O2
catalyst | dimethylformamide | 5 drops | CN(C=O)C | C3H7NO
product | 2-[2-chloro-4-(methylsulfonyl)benzoyl]-1,3-cyclohexanedione | 48.4 g | ClC1=C(C(=O)C2C(CCCC2=O)=O)C=CC(=C1)S(=O)(=O)C | C14H13ClO5S
